US03937718
N-Benzyloxycarbonyl-L-glutamine pentachlorophenyl ester
To a solution of 0.700 g. of N-benzyloxycarbonyl-L-glutamine, 0.665 g. of pentachlorophenol and 0.55 g. of 2,2'-dipyridyl disulfide in 20 ml. of dry acetone is added an acetone solution of 0.655 g. of triphenyl phosphine with stirring at 0°C. The produced precipitates are recovered by filtration and washed successively with a 3 % sodium bicarbonate solution, water and ether and recrystallized from a mixture of dimethylformamide and methanol to give 0.952 g. of the desired product.

reactant | N-benzyloxycarbonyl-L-glutamine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCC(N)=O)C(=O)O | C13H16N2O5
reactant | pentachlorophenol | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | 2,2'-dipyridyl disulfide | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetone | CC(=O)C | C3H6O
product | N-Benzyloxycarbonyl-L-glutamine pentachlorophenyl ester | ClC1=C(C(=C(C(=C1OC([C@@H](NC(=O)OCC1=CC=CC=C1)CCC(N)=O)=O)Cl)Cl)Cl)Cl | C19H15Cl5N2O5
